US08470839B2
Preparation of N′-[1-(2,6-dimethylbenzoyl)-5-fluoro-2-oxo-1,2-dihydro-pyrimidin-4-yl]-N,N-dimethylformamidine (2)
To an 8 mL screw-cap vial were added pyridine (2 mL), N′-(5-fluoro-2-hydroxy-pyrimidin-4-yl)-N,N-dimethylformamidine (100 mg, 0.54 mmol), and 2,6-dimethylbenzoyl chloride (102 mg, 0.60 mmol). The mixture was heated to 40° C. for 2 h, evaporated to dryness, and partitioned between ethyl acetate (EtOAc) and water (H2O). The organic phase was dried over magnesium sulfate (MgSO4), filtered, evaporated, and the residue was purified by reverse phase chromatography to yield the title compound as a white solid (63 mg, 37%): mp 120-150° C.; 1H NMR (300 MHz, CDCl3) δ 8.81 (s, 1H), 8.22 (d, J=6.04 Hz, 1H), 7.23-7.17 (m, 1H), 7.07-7.01 (m, 2H), 3.27 (s, 3H), 3.24 (s, 3H), 2.24 (s, 6H); ESIMS m/z 317 ([M+H]+).

reactant | N′-(5-fluoro-2-hydroxy-pyrimidin-4-yl)-N,N-dimethylformamidine | 0.54 mmol, 100 mg | FC=1C(=NC(=NC1)O)N=CN(C)C | C7H9FN4O
reactant | 2,6-dimethylbenzoyl chloride | 0.60 mmol, 102 mg | CC1=C(C(=O)Cl)C(=CC=C1)C | C9H9ClO
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | N′-[1-(2,6-dimethylbenzoyl)-5-fluoro-2-oxo-1,2-dihydro-pyrimidin-4-yl]-N,N-dimethylformamidine | 63 mg, 37% | CC1=C(C(=O)N2C(N=C(C(=C2)F)N=CN(C)C)=O)C(=CC=C1)C | C16H17FN4O2
